US08389527B2
To a suspension containing 6-((trans)-4-aminocyclohexylamino)-8-(ethylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (0.025 g, 0.061 mmol), diisopropylethylamine (0.053 mL, 0.303 mmol), and BOP (0.080 g, 0.182 mmol) in DMF at room temperature was added BOC-glycine (0.021 g, 0.121 mmol). The resulting suspension was stirred 30 min at ambient temperature. The dark brown solution was diluted with ethyl acetate and water. The layers were separated and the aqueous phase extracted three times with 5 mL ethyl acetate. The organic extracts were combined, washed with water and 10% aq. lithium chloride five times before drying over anhydrous sodium sulfate. Filtration and concentration under reduced pressure revealed a white solid which was suspended in CH2Cl2 (0.5 mL) at room temperature. TFA (0.5 mL) was added, resulting in a homogeneous solution. After 30 min at room temperature, the crude material was diluted with 1 mL of THF and purified via preparative HPLC using a YMC ODS C-18 30×250 mm column with 10-100% B (Solvent A: 10% aq MeOH with 0.1% TFA; Solvent B: 90% aq. MeOH with 0.1% TFA) and a linear gradient over 30 min at 25 mL/min, monitoring at 220 nm (Rt=27.545 min) The appropriate fractions were concentrated and lyophilized overnight, furnishing 6-((trans)-4-(2-aminoacetamido)cyclohexylamino)-8-(ethylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (19 mg, 0.027 mmol, 44.9% yield) as a white foam. MS: [M+H]=470.0. HPLC: Rt=3.121 min. (Waters sunfire 4.6×50 mm C18.5 um 4 min/1 min hold time 0-100% (A-B) A=10% MeOH-90% water-0.1% TFA, B=90% MeOH-10% water-0.1% TFA).

reactant | 6-((trans)-4-aminocyclohexylamino)-8-(ethylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.061 mmol, 0.025 g | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NCC | C20H25FN8O
reactant | diisopropylethylamine | 0.303 mmol, 0.053 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOP | 0.182 mmol, 0.080 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | BOC-glycine | 0.121 mmol, 0.021 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-((trans)-4-(2-aminoacetamido)cyclohexylamino)-8-(ethylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.027 mmol, 19 mg, 44.9% yield | NCC(=O)N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NCC | C22H28FN9O2
